US05753664
3,5-Dimethyl-2-[4-[4-(2-morpholinoethoxy)benzoyl]-benzylthio]-4(3H)-quinazolinone hydrochloride
A solution of 2-[4-(4-hydroxybenzoyl)benzylthio]-3,5-dimethyl-4(3H)-quinazolinone (366 mg), 4-(2-chloroethyl)morpholine hydrochloride (192 mg) and potassium carbonate (356 mg) in DMF (5 ml) was stirred at 60° C. for 62 hours. This reaction mixture was concentrated and the residue was dissolved in ethyl acetate, washed with water, and dried. Then, hydrogen chloride/ethyl acetate was added and the precipitated hydrochloride was collected by filtration to provide the title compound as colorless solid (337 mg).

reactant | 2-[4-(4-hydroxybenzoyl)benzylthio]-3,5-dimethyl-4(3H)-quinazolinone | 366 mg | OC1=CC=C(C(=O)C2=CC=C(CSC3=NC4=CC=CC(=C4C(N3C)=O)C)C=C2)C=C1 | C24H20N2O3S
reactant | 4-(2-chloroethyl)morpholine hydrochloride | 192 mg | Cl.ClCCN1CCOCC1
reactant | potassium carbonate | 356 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3,5-Dimethyl-2-[4-[4-(2-morpholinoethoxy)benzoyl]-benzylthio]-4(3H)-quinazolinone hydrochloride | 337 mg | Cl.CN1C(=NC2=CC=CC(=C2C1=O)C)SCC1=CC=C(C=C1)C(C1=CC=C(C=C1)OCCN1CCOCC1)=O | InChI=1S/C30H31N3O4S.ClH/c1-21-4-3-5-26-27(21)29(35)32(2)30(31-26)38-20-22-6-8-23(9-7-22)28(34)24-10-12-25(13-11-24)37-19-16-33-14-17-36-18-15-33;/h3-13H,14-20H2,1-2H3;1H
